US03966744
A mixture of 5-phenyllevulinic acid (4.0 g, 206 mmoles), methylamine hydrochloride (6.75 g), sodium cyanoborohydride (1.0 g) and methanol (100 ml) was stirred at room temperature for 4 days, then acidified to pH 1.0 and evaporated to dryness. The residue was partitioned between water and ether, and the water phase was evaporated to dryness. The residue was extracted with dichloromethane (2 × 250 ml) which was then dried and evaporated. The residue was re-dissolved in dichloromethane, the solution filtered from some insolubles and evaporated. The residue was crystallized by a slow addition of ether to its solution in ethanol to give methyl 4-methylamino-5-phenylpentanoate hydrochloride. m.p. 117°-20°.

reactant | 5-phenyllevulinic acid | 206 mmoles, 4.0 g | C1(=CC=CC=C1)CC(CCC(=O)O)=O | C11H12O3
reactant | methylamine hydrochloride | 6.75 g | Cl.CN
reactant | sodium cyanoborohydride | 1.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | methyl 4-methylamino-5-phenylpentanoate hydrochloride | Cl.CNC(CCC(=O)OC)CC1=CC=CC=C1 | InChI=1S/C13H19NO2.ClH/c1-14-12(8-9-13(15)16-2)10-11-6-4-3-5-7-11;/h3-7,12,14H,8-10H2,1-2H3;1H
